US07345068B2
Trifluoromethanesulfonic anhydride (1.51 ml) was added dropwise to an ice-cold solution of N-trifluoroacetyl-3-hydroxy-L-phenylalanine ethyl ester (915 mg, 3.00 mmol) in pyridine (9 ml) in 5 minutes under argon atmosphere. The mixture was stirred at the same temperature for 30 minutes and then at room temperature for 16 hrs. The reaction mixture was poured into ice-water (500 ml) and extracted with ethyl acetate. The extract was washed with 10% hydrochloric acid, water and brine in turn and then dried. The solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=7) to give N-trifluoroacetyl-3-trifluoromethanesulfonyloxy-L-phenylalanine ethyl ester (1.25 g, 95%) as pale yellow crystals.

reactant | Trifluoromethanesulfonic anhydride | 1.51 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-trifluoroacetyl-3-hydroxy-L-phenylalanine ethyl ester | 3.00 mmol, 915 mg | C(C)OC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=CC=C1)O)=O | C13H14F3NO4
solvent | pyridine | 9 ml | N1=CC=CC=C1 | C5H5N
product | N-trifluoroacetyl-3-trifluoromethanesulfonyloxy-L-phenylalanine ethyl ester | 1.25 g, 95% | C(C)OC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=CC=C1)OS(=O)(=O)C(F)(F)F)=O | C14H13F6NO6S
